US08754100B2
Synthesis of 3,3,5-trimethyl-2,3-dihydrobenzofuran
3-Chloro-2-methylpropene (9.7 mL) was added dropwise to a mixed solution of p-cresol (CAS #106-44-5, 10.8 g) and concentrated sulfuric acid (2.5 g), and the mixture was stirred at room temperature for one hour and 20 minutes. The reaction solution was ice-cooled and a 5 N sodium hydroxide aqueous solution (20 mL) was added, followed by stirring at 90° C. for 45 minutes. A 5 N sodium hydroxide aqueous solution (10 mL) was added to the reaction solution, and the mixture was stirred at 90° C. for two hours and 45 minutes. The reaction solution was left to cool to room temperature. tert-Butyl methyl ether was added to the reaction solution, and the organic layer was separated. The resulting organic layer was sequentially washed with water (three times) and brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (carrier: Merck silica gel 60 (230-400 mesh); elution solvent:heptane:ethyl acetate=1:0→49:1). The target fraction was concentrated and the resulting residue was purified again by silica gel column chromatography (carrier: Chromatorex™ NH; elution solvent: heptane). The target fraction was concentrated and the resulting residue was distilled under reduced pressure to obtain 1.87 g of the target compound (bp. 102° C./20 mmHg). The property values of the compound are as follows.

reactant | 3-Chloro-2-methylpropene | 9.7 mL | ClCC(=C)C | C4H7Cl
reactant | p-cresol | 10.8 g | C1=CC(=CC=C1O)C | C7H8O
reactant | sulfuric acid | 2.5 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 5 N, 20 mL | [OH-].[Na+]
reactant | sodium hydroxide | 5 N, 10 mL | [OH-].[Na+]
solvent | tert-Butyl methyl ether | COC(C)(C)C | C5H12O
product | 3,3,5-trimethyl-2,3-dihydrobenzofuran | 1.87 g | CC1(COC2=C1C=C(C=C2)C)C | C11H14O
